* OPA1197 functional ngspice macro-model for KiCad
* --------------------------------------------------
* Purpose:
*   Stable, portable ngspice model that emulates the main OPAx197/OPA1197
*   datasheet values.  It is not a transistor-level or official TI model.
*
* Pin order:
*   IN+ IN- VCC VEE OUT
*
* Main modeled behavior:
*   - 10 MHz unity-gain bandwidth
*   - large DC open-loop gain
*   - slew-rate limiting
*   - rail-to-rail output swing with approximate load droop
*   - output current limiting
*   - input offset voltage, drift, bias current
*   - input impedance/capacitance
*   - input-referred voltage and current noise for .noise analysis
*
* Typical usage:
*   XU1 noninv inv vplus vminus out OPA1197_FUNC

.subckt OPA1197_FUNC IN+ IN- VCC VEE OUT PARAMS:
+ AOL=5e6
+ GBW=10e6
+ SR=20e6
+ VOS=5u
+ VOS_DRIFT=0.5u
+ TEMP_C=27
+ IBIAS=5p
+ IQ=1m
+ VHEAD=25m
+ ROUT=55
+ ISC=65m
+ RDIFF=100Meg
+ CDIFF=1.6p
+ RCM=1e13
+ CCM=6.4p
+ CMRR_GAIN=1e-6
+ PSRR_GAIN=1e-6
+ VSNOM=36
+ COUT=1p

.param PI=3.141592653589793
.param C_OL_VAL=1u
.param R_OL_VAL={AOL/(2*PI*GBW*C_OL_VAL)}
.param G_OL={AOL/R_OL_VAL}
.param I_OL_LIM={SR*C_OL_VAL}

* Floating internal mid-supply reference.
B_MID MID 0 V={(V(VCC)+V(VEE))/2}

* Input impedance, capacitance, and typical bias current.
R_DIFF IN+ IN- {RDIFF}
C_DIFF IN+ IN- {CDIFF}
R_CM_P IN+ MID {RCM}
R_CM_N IN- MID {RCM}
C_CM_P IN+ MID {CCM}
C_CM_N IN- MID {CCM}
B_IB_P IN+ MID I={IBIAS}
B_IB_N IN- MID I={IBIAS}

* Datasheet-like input voltage noise source.
* TI's official PSpice model uses a similar diode/resistor noise construction.
X_VN VN MID OPA1197_VNSE PARAMS: FLW=0.1 GLF=0.1352 RNV=35.8

* Input-referred error voltage.
* Includes differential input, offset, drift, approximate CMRR and PSRR terms.
B_ERR ERR MID V={
+ V(IN+,IN-)
+ + V(VN,MID)
+ + VOS + VOS_DRIFT*(TEMP_C-27)
+ + CMRR_GAIN*(((V(IN+)+V(IN-))/2)-V(MID))
+ + PSRR_GAIN*(V(VCC,VEE)-VSNOM)
+ }
R_ERR ERR MID 1G

* Dominant pole open-loop amplifier with internal slew-rate current limit.
* Small signal: DC gain AOL and unity-gain bandwidth GBW.
* Large signal: the OL capacitor current is limited to C*dV/dt = C*SR.
B_OL MID OL I={I_OL_LIM*tanh((G_OL*V(ERR,MID))/I_OL_LIM)}
R_OL OL MID {R_OL_VAL}
C_OLCAP OL MID {C_OL_VAL}

* Output drive with approximate ROUT and short-circuit current limit.
B_DRV DRV 0 V={V(MID)+min(max(V(OL,MID), V(VEE)+VHEAD-V(MID)), V(VCC)-VHEAD-V(MID))}
R_DRV DRV 0 1G
B_OUT MID OUT I={ISC*tanh((V(DRV)-V(OUT))/(ROUT*ISC))}
C_OUT OUT MID {COUT}
R_OUT_LEAK OUT MID 1G

* Quiescent current per amplifier. Output load current is not fully reflected
* into the supplies; this is a functional signal-path model.
B_IQ VCC VEE I={IQ}

.ends OPA1197_FUNC


* Input voltage noise helper for .noise analysis.
* Output pins: 1 2.  The generated voltage is input-referred.
.subckt OPA1197_VNSE 1 2 PARAMS: FLW=0.1 GLF=0.1352 RNV=35.8
.model D_VN D KF={PWR(FLW,0.5)/1E11} IS=1.0E-16
I1 0 7 10m
I2 0 8 10m
D1 7 0 D_VN
D2 8 0 D_VN
E1 3 6 7 8 {GLF}
R1 3 0 1G
R2 3 0 1G
R3 3 6 1G
E2 6 4 5 0 10
R4 5 0 {RNV}
R5 5 0 {RNV}
R6 3 4 1G
R7 4 0 1G
E3 1 2 3 4 1
.ends OPA1197_VNSE
